US07906517B2
To tert-butyl 3-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-propionate (41 mg) is added a 4N-hydrochloric acid/dioxane (4 ml) and the mixture is stirred at room temperature for 9 hours. The reaction mixture is neutralized with a saturated aqueous sodium bicarbonate solution and the mixture is made weakly acidic with a 10% aqueous citric acid solution, and extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→1:3) and the resulting purified product is dissolved in ethanol (0.5 ml) and thereto is added 1M-aqueous sodium hydroxide solution (24 μl) and the mixture is concentrated under reduced pressure to give 3-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-propionic acid sodium salt (18 mg). MS (m/z): 706 [M−Na]−

reactant | tert-butyl 3-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-propionate | 41 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)OC)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C39H43F6N3O6
reactant | hydrochloric acid dioxane | 4 ml | Cl.O1CCOCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-{2-[(3,5-bis-trifluoromethyl-benzyl)-(5′-isopropyl-4,5,2′-trimethoxy-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-propionic acid sodium salt | 18 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)OCCC(=O)[O-])CC2=C(C=C(C(=C2)OC)OC)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C35H35F6N3O6.Na/c1-20(2)22-6-7-29(47-3)28(12-22)27-15-31(49-5)30(48-4)13-23(27)19-44(33-42-16-26(17-43-33)50-9-8-32(45)46)18-21-10-24(34(36,37)38)14-25(11-21)35(39,40)41;/h6-7,10-17,20H,8-9,18-19H2,1-5H3,(H,45,46);/q;+1/p-1
